US05153196
The 2-carboxy-4-hydroxy-6-bromoquinoline (5.42 g, 20 mmol) was slurried in 250 ml of light mineral oil and heated to 270°-295° C. for 10-15 minutes. The mixture was allowed to cool overnight, diluted with chloroform and filtered, and then washed with adequate amounts of chloroform, yielding 6-bromo-4-hydroxyquinoline.

reactant | 2-carboxy-4-hydroxy-6-bromoquinoline | 20 mmol, 5.42 g | C(=O)(O)C1=NC2=CC=C(C=C2C(=C1)O)Br | C10H6BrNO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-4-hydroxyquinoline | BrC=1C=C2C(=CC=NC2=CC1)O | C9H6BrNO
